US06410556B1
To a stirred mixture of 2-amino-5-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (0.24 g, 0.67 mmol) in acetonitrile (30 ml) was added N,N-diisopropylethylamine (0.16 ml, 0.93 mmol) under nitrogen. 2-Bromo-methyl-3-methoxymethoxy-benzoic acid methyl ester (0.16 g, 0.55 mmol) dissolved in acetonitrile, was added via syringe pump at a rate of 0.3 ml/hour. Once the addition was complete, the reaction mixture was stirred at room temperature for 24 hours. Tlc analysis (1:1 ethyl acetate/hexanes) indicated the reaction to be complete. The volatiles were removed in vacuo and the resultant oil dissolved in ethyl acetate/water. The layers were separated and the aqueous layer extracted with ethyl acetate (3×). The organic layers were combined, dried (MgSO4), filtered and the solvent evaporated in vacuo, which afforded 0.34 g (100%) of 2-amino-5-(S)-(4-methoxymethoxy-1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester, which was used without further purification in the next step.

reactant | 2-amino-5-(S)-aminomethyl-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.67 mmol, 0.24 g | C(C)(C)(C)OC(=O)C1=C(SC=2CN([C@@H](CC21)CN)[C@@H](C)C2=CC=CC=C2)N | C21H29N3O2S
reactant | N,N-diisopropylethylamine | 0.93 mmol, 0.16 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-Bromo-methyl-3-methoxymethoxy-benzoic acid methyl ester | 0.55 mmol, 0.16 g | COC(C1=C(C(=C(C=C1)C)OCOC)Br)=O | C11H13BrO4
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-amino-5-(S)-(4-methoxymethoxy-1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-6-(1-(S)-phenyl-ethyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.34 g, 100% | C(C)(C)(C)OC(=O)C1=C(SC=2CN([C@@H](CC21)CN2C(C1=CC=CC(=C1C2)OCOC)=O)[C@@H](C)C2=CC=CC=C2)N | C31H37N3O5S
